US09028976B2
An amount of 14 g (42 mmol) of 9-bromo-10-phenylanthracene was dissolved in dehydrated THF and cooled to −80° C. Then, 31.2 ml (49 mmol) of a solution of n-butyllithium in n-hexane was added dropwise. Forty minutes later, 13 g (89 mmol) of triethyl borate was added. After two-hour reaction, a diluted hydrochloric acid solution was added and allowed to stand for 12 hours. Then, the separated organic layer was recrystallized to obtain 10 g (33.6 mmol) of 10-phenylanthracene-9-boronic acid. The yield was 75.2%.

reactant | 9-bromo-10-phenylanthracene | 42 mmol, 14 g | BrC=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C20H13Br
reactant | n-butyllithium | C(CCC)[Li]
reactant | triethyl borate | 89 mmol, 13 g | B(OCC)(OCC)OCC | C6H15BO3
reactant | hydrochloric acid | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
product | 10-phenylanthracene-9-boronic acid | 33.6 mmol, 10 g, yield was 75.2% | C1(=CC=CC=C1)C1=C2C=CC=CC2=C(C2=CC=CC=C12)B(O)O | C20H15BO2
